### PR TITLE
[Merged by Bors] - chore: golf using custom elaborators

### PR DESCRIPTION
**Pull request by grunweg**
The final pieces from #30357.

---

I'm happy to split these changes further if you prefer.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 1]
```diff
@@ -197,23 +197,24 @@ their scalar product is differentiable. -/
...
 /-- Given two differentiable maps into the same fibers of a Riemannian bundle,
 their scalar product is differentiable. -/
 lemma MDifferentiableOn.inner_bundle
     (hv : MDifferentiableOn IM (IB.prod 𝓘(ℝ, F)) (fun m ↦ (v m : TotalSpace F E)) s)
     (hw : MDifferentiableOn IM (IB.prod 𝓘(ℝ, F)) (fun m ↦ (w m : TotalSpace F E)) s) :
-    MDifferentiableOn IM 𝓘(ℝ) (fun b ↦ ⟪v b, w b⟫) s :=
+    MDiff[s] (fun b ↦ ⟪v b, w b⟫) :=
   fun x hx ↦ (hv x hx).inner_bundle (hw x hx)
 
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/Complex.lean [hunk 2]
```diff
@@ -110,25 +112,25 @@ that `‖f x‖` takes its maximum value on `U` at `c ∈ U`. Then `f x = f c` f
...
 theorem eqOn_of_isPreconnected_of_isMaxOn_norm [StrictConvexSpace ℝ F] {f : M → F} {U : Set M}
-    {c : M} (hd : MDifferentiableOn I 𝓘(ℂ, F) f U) (hc : IsPreconnected U) (ho : IsOpen U)
+    {c : M} (hd : MDiff[U] f) (hc : IsPreconnected U) (ho : IsOpen U)
     (hcU : c ∈ U) (hm : IsMaxOn (norm ∘ f) U c) : EqOn f (const M (f c)) U := fun x hx =>
   have H₁ : ‖f x‖ = ‖f c‖ := hd.norm_eqOn_of_isPreconnected_of_isMaxOn hc ho hcU hm hx
-  -- TODO: Add `MDifferentiableOn.add` etc; does it mean importing `Manifold.Algebra.Monoid`?
-  have hd' : MDifferentiableOn I 𝓘(ℂ, F) (f · + f c) U := fun x hx ↦
-    ⟨(hd x hx).1.add continuousWithinAt_const, (hd x hx).2.add_const _⟩
+  have hd' : MDiff[U] (f · + f c) := hd.add mdifferentiableOn_const
+    --⟨(hd x hx).1.add continuousWithinAt_const, (hd x hx).2.add_const _⟩
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Complex.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/Diffeomorph.lean [hunk 3]
```diff
@@ -79,8 +79,20 @@ variable (I I' M M' n)
...
+/-- `Diffeomorph% M N n` elaborates to `Diffeomorph I J M N n`,
+trying to determine `I` and `J` from the local context. -/
+/-scoped-/ elab:max "Diffeomorph%" ppSpace
+    M:term:arg ppSpace N:term:arg ppSpace nt:term:arg : term => do
+  let ne ← Term.elabTermEnsuringType nt q(WithTop ℕ∞)
+  let eM ← Term.elabTerm M none
+  let eN ← Term.elabTerm N none
+  let srcI ← findModel eM none
+  let tgtI ← findModel eN none
+  mkAppM ``Diffeomorph #[srcI, tgtI, eM, eN, ne]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Diffeomorph.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/Diffeomorph.lean [hunk 4]
```diff
@@ -90,6 +102,10 @@ scoped[Manifold] notation M " ≃ₘ^" n:1000 "⟮" I ", " J "⟯ " N => Diffeom
 /-- Infinitely differentiable diffeomorphism between `M` and `M'` with respect to `I` and `I'`. -/
 scoped[Manifold] notation M " ≃ₘ⟮" I ", " J "⟯ " N => Diffeomorph I J M N ∞
 
+/-- Infinitely differentiable diffeomorphism between `M` and `M'` with respect to `I` and `I'`:
+try to infer the models with corners on `M` and `M'` automatically. -/
+scoped[Manifold] notation M " ≃ₘ" N => Diffeomorph% M N ∞
+
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Diffeomorph.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/Riemannian/Basic.lean [hunk 5]
```diff
@@ -290,7 +289,7 @@ lemma eventually_norm_mfderivWithin_symm_extChartAt_lt (x : M) :
 
 lemma eventually_enorm_mfderivWithin_symm_extChartAt_lt (x : M) :
     ∃ C > (0 : ℝ≥0), ∀ᶠ y in 𝓝[range I] (extChartAt I x x),
-    ‖mfderivWithin 𝓘(ℝ, E) I (extChartAt I x).symm (range I) y‖ₑ < C := by
+      ‖mfderiv[range I] (extChartAt I x).symm y‖ₑ < C := by
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/Riemannian/Basic.lean]:
```suggestion
    ‖mfderiv[range I] (extChartAt I x).symm y‖ₑ < C := by
```

File: Mathlib/Geometry/Manifold/ContMDiffMap.lean [hunk 6]
```diff
@@ -28,12 +29,14 @@ variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] {E : Type*} [NormedAddCom
   [NormedAddCommGroup F] [NormedSpace 𝕜 F] {G : Type*} [TopologicalSpace G]
   {J : ModelWithCorners 𝕜 F G} {N : Type*} [TopologicalSpace N] [ChartedSpace G N] (n : WithTop ℕ∞)
 
+open Manifold
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/ContMDiffMap.lean]:
```suggestion
open scoped Manifold
```

makes the intent clearer.

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 7]
```diff
@@ -212,13 +212,14 @@ noncomputable def smoothSheafCommGroup : TopCat.Sheaf CommGrpCat.{u} (TopCat.of
         (CategoryTheory.forget CommGrpCat)]
       exact CategoryTheory.Sheaf.cond (smoothSheaf IM I M A) }
 
+open Manifold in
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean]:
```suggestion
open scoped Manifold in
```

makes the intent clearer.

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 8]
```diff
@@ -188,14 +188,14 @@ theorem contMDiff_smul {g : M → F} {i} (hg : ∀ x ∈ tsupport (f i), ContMDi
 functions such that `g i` is $C^n$ smooth at every point of the topological support of `f i`, then
 the sum `fun x ↦ ∑ᶠ i, f i x • g i x` is smooth on the whole manifold. -/
 theorem contMDiff_finsum_smul {g : ι → M → F}
-    (hg : ∀ (i), ∀ x ∈ tsupport (f i), ContMDiffAt I 𝓘(ℝ, F) n (g i) x) :
-    ContMDiff I 𝓘(ℝ, F) n fun x => ∑ᶠ i, f i x • g i x :=
+    (hg : ∀ (i), ∀ x ∈ tsupport (f i), CMDiffAt n (g i) x) :
+    CMDiff n fun x => ∑ᶠ i, f i x • g i x :=
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
    CMDiff n fun x ↦ ∑ᶠ i, f i x • g i x :=
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 9]
```diff
@@ -188,14 +188,14 @@ theorem contMDiff_smul {g : M → F} {i} (hg : ∀ x ∈ tsupport (f i), ContMDi
...
   (contMDiff_finsum fun i => f.contMDiff_smul (hg i)) <|
     f.locallyFinite.subset fun _ => support_smul_subset_left _ _
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
(contMDiff_finsum fun i ↦ f.contMDiff_smul (hg i)) <|
f.locallyFinite.subset fun _ ↦ support_smul_subset_left _ _
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 10]
```diff
@@ -284,8 +284,8 @@ alias ⟨_, IsSubordinate.toPartitionOfUnity⟩ := isSubordinate_toPartitionOfUn
 `U : ι → Set M` and `g : ι → M → F` is a family of functions such that `g i` is $C^n$ smooth on
 `U i`, then the sum `fun x ↦ ∑ᶠ i, f i x • g i x` is $C^n$ smooth on the whole manifold. -/
 theorem IsSubordinate.contMDiff_finsum_smul {g : ι → M → F} (hf : f.IsSubordinate U)
-    (ho : ∀ i, IsOpen (U i)) (hg : ∀ i, ContMDiffOn I 𝓘(ℝ, F) n (g i) (U i)) :
-    ContMDiff I 𝓘(ℝ, F) n fun x => ∑ᶠ i, f i x • g i x :=
+    (ho : ∀ i, IsOpen (U i)) (hg : ∀ i, CMDiff[U i] n (g i)) :
+    CMDiff n fun x => ∑ᶠ i, f i x • g i x :=
   f.contMDiff_finsum_smul fun i _ hx => (hg i).contMDiffAt <| (ho i).mem_nhds (hf i hx)
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
    CMDiff n fun x ↦ ∑ᶠ i, f i x • g i x :=
f.contMDiff_finsum_smul fun i _ hx ↦ (hg i).contMDiffAt <| (ho i).mem_nhds (hf i hx)
```

**Review by PatrickMassot — COMMENTED** [review]
bors d+

File: Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean [hunk 11]
```diff
@@ -14,6 +14,8 @@ We show that the model with corners, charts, extended charts and their inverses
 and that local structomorphisms are `C^n` with `C^n` inverses.
 -/
 
+assert_not_exists mfderiv
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean:17]: For the record: this change (and its analogue in the two other files) just adds an assert_not_exists which is already transitively implied - to make this clearer.
